US07317033B2
e) N-(2-Chloro-4-methylthiophen-3-yl)-N′-(1,4-dioxaspiro[4.5]dec-6-yl)guanidine
N-(1,4-Dioxaspiro[4.5]dec-6-yl)-N′-(4-methylthiophen-3-yl)guanidine (49 mg) was dissolved in glacial acetic acid (3 ml), and a solution of N-chlorosuccinimide (20.3 mg) in glacial acetic acid (5 ml) was added slowly. The mixture was stirred for a number of hours and then allowed to stand at room temperature over the weekend, after which the glacial acetic acid was removed under reduced pressure, the residue was taken up in water and the mixture was adjusted to pH 10 using 2N sodium hydroxide solution. The basic phase was extracted three times with ethyl acetate and the combined organic phases were dried over magnesium sulfate, filtered and concentrated. The residue was purified by preparative chromatography and the product-containing fractions were combined, freed from acetonitrile, made basic and extracted three times with ethyl acetate. The organic phases were combined, dried (MgSO4) and filtered. Removal of the solvent under reduced pressure gave 24 mg of the desired product which was used directly for the next step.

reactant | N-(1,4-Dioxaspiro[4.5]dec-6-yl)-N′-(4-methylthiophen-3-yl)guanidine | 49 mg | O1CCOC12C(CCCC2)NC(=N)NC2=CSC=C2C | C14H21N3O2S
reactant | N-chlorosuccinimide | 20.3 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
product | N-(2-Chloro-4-methylthiophen-3-yl)-N′-(1,4-dioxaspiro[4.5]dec-6-yl)guanidine | 24 mg | ClC=1SC=C(C1NC(=N)NC1C2(OCCO2)CCCC1)C | C14H20ClN3O2S
